US08563550B2
2-(4-Fluoro-phenoxy)-5-iodo-imidazo[2,1-b][1,3,4]thiadiazole (0.13 g, 0.36 mmol) was suspended in 1,4-dioxane (1.5 mL) at room temperature and argon was bubbled into the mixture while tetrakis(triphenylphosphine)palladium(0) (42 mg, 0.036 mmol), 3-(N,N-dimethylamino)phenylboronic acid (68 mg, 0.41 mmol), cesium carbonate (235 mg, 0.72 mmol, 2.0 eq), and water (1.5 mL) were added. The mixture was deoxygenated for 10 minutes and heated under microwave irradiation at 140° C. for 1 hour. On cooling, the mixture was diluted with dichloromethane (7 mL), adsorbed in silica and purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.2:9.8 to 2:8). The obtained residue was crystallized from methanol:1,2-dichloroethane (1:1, 1.5 mL) and filtered to give {3-[2-(4-fluoro-phenoxy)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenyl}-dimethyl-amine as a white solid (13 mg, 10% yield).

reactant | 2-(4-Fluoro-phenoxy)-5-iodo-imidazo[2,1-b][1,3,4]thiadiazole | 0.36 mmol, 0.13 g | FC1=CC=C(OC2=NN3C(S2)=NC=C3I)C=C1 | C10H5FIN3OS
reactant | 3-(N,N-dimethylamino)phenylboronic acid | 0.41 mmol, 68 mg | CN(C)C=1C=C(C=CC1)B(O)O | C8H12BNO2
reactant | cesium carbonate | 0.72 mmol, 235 mg, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1.5 mL | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.036 mmol, 42 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {3-[2-(4-fluoro-phenoxy)-imidazo[2,1-b][1,3,4]thiadiazol-5-yl]-phenyl}-dimethyl-amine | 13 mg, 10% yield | FC1=CC=C(OC2=NN3C(S2)=NC=C3C=3C=C(C=CC3)N(C)C)C=C1 | C18H15FN4OS
